US08609653B2
A mixture of ethyl 9-cyclopropyl-2-methyl-4-(((trifluoromethyl)sulfonyl)oxy)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (500 mg, 1.120 mmol), 2-(8-chloro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.415 g, 1.344 mmol), and Na2CO3 (0.356 g, 3.36 mmol) in 1,4-dioxane (8.8 ml) and water (2.2 ml) was degassed with N2 for 5 min, treated with Pd(Ph3P)4 (0.129 g, 0.112 mmol), degassed with N2 for 5 min, and then heated to 90° C. for 2 hours. The reaction was cooled to rt, diluted with water, extracted with EtOAc 2×, washed with Brine, dried with Na2SO4, filtered, and concentrated. Purification with column chromatography (0-40% EtOAc/Hexane) gave ethyl 4-(8-chloro-5-methylchroman-6-yl)-9-cyclopropyl-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (510.8 mg, 1.066 mmol, 95% yield) as white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.00 (s, 1 H), 4.33-4.23 (m, 2 H), 4.03 (q, J=7.1 Hz, 2 H), 3.17-3.06 (m, 1 H), 2.80 (t, J=5.9 Hz, 2 H), 2.74-2.61 (m, 5 H), 2.17-2.06 (m, 2 H), 1.91-1.70 (m, 7 H), 1.65-1.57 (m, 2 H), 1.20-1.06 (m, 4 H), 0.98 (t, J=7.1 Hz, 3 H); LCMS (m/z) ES+=479 (M+1).

reactant | ethyl 9-cyclopropyl-2-methyl-4-(((trifluoromethyl)sulfonyl)oxy)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 1.120 mmol, 500 mg | C1(CC1)N1C2=C(C=3CCCCC13)C(=C(C(=N2)C)C(=O)OCC)OS(=O)(=O)C(F)(F)F | C19H21F3N2O5S
reactant | 2-(8-chloro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.344 mmol, 0.415 g | ClC=1C=C(C(=C2CCCOC12)C)B1OC(C(O1)(C)C)(C)C | C16H22BClO3
reactant | Na2CO3 | 3.36 mmol, 0.356 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 8.8 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.2 ml | O | H2O
catalyst | Pd(Ph3P)4 | 0.112 mmol, 0.129 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-(8-chloro-5-methylchroman-6-yl)-9-cyclopropyl-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 1.066 mmol, 510.8 mg, 95% yield | ClC=1C=C(C(=C2CCCOC12)C)C1=C(C(=NC=2N(C=3CCCCC3C21)C2CC2)C)C(=O)OCC | C28H31ClN2O3
